US07932247B2
Phenylmethyl (2S)-4-{[5′-(aminomethyl)-2′-fluoro-3-biphenylyl]methyl}-2-methyl-1-piperazinecarboxylate
A solution of phenylmethyl (2S)-4-[(5′-cyano-2′-fluoro-3-biphenylyl)methyl]-2-methyl-1-piperazinecarboxylate (708 mg, 1.60 mmol) in THF (10 mL) was flushed with Ar. for 15 minutes. Borane (5.6 mL of a 1M solution in THF, 5.6 mmol) was slowly added and the reaction was allowed to stir at room temperature for 12 hours. The reaction was quenched slowly with 1N HCl (1 mL) and allowed to stir for 2 hours at rt. After neutralization to pH>10 with 2N NaOH, the reaction mixture was extracted with EtOAc (2×15 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated under vacuum. The crude residue was placed onto a aminopropyl SPE silica cartridge (10 g) and eluted with the following sequence: 50% hexane/50% EtOAc (3×20 mL), 10% MeOH/90% DCM (3×20 mL). The methanol fractions were combined and concentrated to give the title compound (660 mg, 92%). LC/MS: m/z, 448 (M+H), 1.63 min.

reactant | phenylmethyl (2S)-4-[(5′-cyano-2′-fluoro-3-biphenylyl)methyl]-2-methyl-1-piperazinecarboxylate | 1.60 mmol, 708 mg | C(#N)C=1C=CC(=C(C1)C1=CC(=CC=C1)CN1C[C@@H](N(CC1)C(=O)OCC1=CC=CC=C1)C)F | C27H26FN3O2
reactant | Borane | B | BH3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Phenylmethyl (2S)-4-{[5′-(aminomethyl)-2′-fluoro-3-biphenylyl]methyl}-2-methyl-1-piperazinecarboxylate | 660 mg, 92% | NCC=1C=CC(=C(C1)C1=CC(=CC=C1)CN1C[C@@H](N(CC1)C(=O)OCC1=CC=CC=C1)C)F | C27H30FN3O2
